US07592358B2
49.1b. 1-{6-[(tert-butyldimethylsilanyl)ethynyl]-5-fluoropyridin-3-yl}-4-methylcyclohexanol
Under an argon atmosphere 9.38 mL (15.0 mmol, 1.6 M) of n-butyllithium was slowly added to a solution of 4.71 g (15.0 mmol) of 5-bromo-2-[(tert-butyldimethylsilanyl)ethynyl]-3-fluoropyridine in 100 mL of diethyl ether at −70° C., so that the internal temperature did not rise above −65° C. After 2 minutes, 1.84 mL (15.0 mmol) of 4-methylcyclohexanone was added and then the cooling bath was removed. The reaction solution was heated to RT and then combined with 50 mL of aqueous saturated ammonium chloride solution. The organic phase was separated off, the aqueous phase was extracted twice with MTBE, and the combined organic phases were dried over magnesium sulfate, filtered through activated charcoal, and the solvent was removed in vacuo. The residue was taken up in DIPE, cooled in the cooling bath, and the precipitate formed (1.4 g) was suction filtered. The mother liquor was concentrated in vacuo and the residue was purified by column chromatography (silica gel, PE/EtOAc 8:2). A further 2.1 g were obtained, which were combined with the above precipitate. The product was obtained as a cis/trans mixture. Yield: 3.50 g (67% of theoretical); C20H30FNOSi (M=347.542); calc.: molpeak (M+H)+:348; found: molpeak (M+H)+:348; Rf value: 0.5 (silica gel, PE/EtOAc 8:2).

reactant | n-butyllithium | 15.0 mmol, 1.6 M, 9.38 mL | C(CCC)[Li]
reactant | 5-bromo-2-[(tert-butyldimethylsilanyl)ethynyl]-3-fluoropyridine | 15.0 mmol, 4.71 g | BrC=1C=C(C(=NC1)C#C[Si](C)(C)C(C)(C)C)F | C13H17BrFNSi
reactant | 4-methylcyclohexanone | 15.0 mmol, 1.84 mL | CC1CCC(CC1)=O | C7H12O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 1-{6-[(tert-butyldimethylsilanyl)ethynyl]-5-fluoropyridin-3-yl}-4-methylcyclohexanol | [Si](C)(C)(C(C)(C)C)C#CC1=C(C=C(C=N1)C1(CCC(CC1)C)O)F | C20H30FNOSi
